US08114872B2
6-Fluoro-4-iodo-N-(2-methoxyethyl)pyridin-3-amine
Mix 6-fluoro-4-iodopyridin-3-amine in TFA salt (0.36 g, 1.50 mmol), 2-chloroethyl methyl ether (0.31 g, 3.30 mmol), potassium hydroxide (0.19 g, 3.30 mmol), potassium fluoride (0.19 g, 3.30 mmol), and tetrabutylammonium iodide (0.11 g, 0.30 mmol) in 1,4-dioxane (1.5 mL) in a seal reactor. Heat the reaction mixture at 100° C. overnight. Cool the reaction mixture to RT. Quench with water. Extract with ethyl acetate, wash the organic layer with water and saturated aqueous sodium chloride. Dry over MgSO4. After the filtration, remove the reaction solvent under reduced pressure. Purify by FCC (0.1% to 1% 2 M NH3 methanol solution/CH2Cl2) to give the title compound (0.09 g, 20%) with 80% HPLC purity. MS (ES) m/z 279 [M+1]+.

reactant | 6-fluoro-4-iodopyridin-3-amine | FC1=CC(=C(C=N1)N)I | C5H4FIN2
reactant | TFA | 1.50 mmol, 0.36 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-chloroethyl methyl ether | 3.30 mmol, 0.31 g | COCCCl | C3H7ClO
reactant | potassium hydroxide | 3.30 mmol, 0.19 g | [OH-].[K+]
reactant | potassium fluoride | 3.30 mmol, 0.19 g | [F-].[K+]
catalyst | tetrabutylammonium iodide | 0.30 mmol, 0.11 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 6-Fluoro-4-iodo-N-(2-methoxyethyl)pyridin-3-amine | 0.09 g, 20% | FC1=CC(=C(C=N1)NCCOC)I | C8H10FIN2O
